US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline (300 mg, 0.51 mmol), 5-bromopyrazin-2-amine (174 mg, 1.0 mmol) and cesium carbonate (490 mg, 1.5 mmol) in water (1.5 mL) and N,N-dimethylformamide (5 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (24 mg, 0.03 mmol) was added. The mixture was degassed again and then heated to 90° C. for 3 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was partially purified by column chromatography (9:1 hexanes/ethyl acetate to ethyl acetate) to give 5-(4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)pyrazin-2-amine (40 mg, 14%) as a yellow oil: ESI MS m/z 556 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | 0.51 mmol, 300 mg | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H27BCl2N2O6S
reactant | 5-bromopyrazin-2-amine | 1.0 mmol, 174 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | cesium carbonate | 1.5 mmol, 490 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 1.5 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)pyrazin-2-amine | 40 mg, 14% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)C=1N=CC(=NC1)N)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C25H19Cl2N5O4S
